US06605626B2
Preparation of N1-Benzyl-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine hydrochloride hemihydrate
Using the procedure described in Example 48, Part C, N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine (0.61 mmol) and benzoyl chloride (1.2 mmol) yielded 175 mg (61%) of the title compound.

reactant | N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine | 0.61 mmol | N1=CC=C(C=C1)N1CCC(CC1)COC(=O)NNC=1C(=CC=CC1)N | C18H23N5O2
reactant | benzoyl chloride | 1.2 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N1-Benzyl-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine hydrochloride hemihydrate | 175 mg, 61% | O.Cl.C(C1=CC=CC=C1)NC=1C(=CC=CC1)NNC(=O)OCC1CCN(CC1)C1=CC=NC=C1.C(C1=CC=CC=C1)NC=1C(=CC=CC1)NNC(=O)OCC1CCN(CC1)C1=CC=NC=C1.Cl | InChI=1S/2C25H29N5O2.2ClH.H2O/c2*31-25(32-19-21-12-16-30(17-13-21)22-10-14-26-15-11-22)29-28-24-9-5-4-8-23(24)27-18-20-6-2-1-3-7-20;;;/h2*1-11,14-15,21,27-28H,12-13,16-19H2,(H,29,31);2*1H;1H2
